US07816391B2
Intermediate#54: methyl 4-[[(2-methylpropan-2-yl)oxycarbonyl-[(2-methylpropan-2-yl)oxycarbonylamino]amino]methyl]benzoate
NaH (362 mg, 9.04 mmol) was added to a stirred solution of Di-Tert-Butyl Hydrazodicarboxylate (2 g, 8.61 mmol) in anhydrous THF (50 ml). The reaction was stiffed at ambient temperature for 10 minutes then treated with a solution of Methy 4-(Bromomethyl)Benzoate (1.98 g, 8.61 mmol) in anhydrous THF (20 ml). The reaction was stirred at ambient temperature for 4 hours. The reaction was partitioned between ether (˜100 ml) and water (˜100 ml). The layers were separated and the aqueous layer was re-extracted with ether (˜50 ml). The ether layers were combined, washed with brine (˜50 ml), dried (MgSO4), filtered and evaporated to yield the title compound (3.3 g, 100%).

reactant | NaH | 9.04 mmol, 362 mg | [H-].[Na+]
reactant | Di-Tert-Butyl Hydrazodicarboxylate | 8.61 mmol, 2 g | N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H20N2O4
reactant | Methy 4-(Bromomethyl)Benzoate | 8.61 mmol, 1.98 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | methyl 4-[[(2-methylpropan-2-yl)oxycarbonyl-[(2-methylpropan-2-yl)oxycarbonylamino]amino]methyl]benzoate | 3.3 g, 100% | CC(C)(C)OC(=O)N(NC(=O)OC(C)(C)C)CC1=CC=C(C(=O)OC)C=C1 | C19H28N2O6
